US08491868B2
Preparation of 1-(2-Hydroxy-2-(4-hydroxyphenyl)ethyl)-2,3-bis(tert-butoxycarbonyl)guanidine
A solution of (+/−)-octopamine hydrochloride (500 mg, 2.89 mmol) and N,N′-bis(Boc)-1H-pyrazole-1-carboxamidine (1.13 g, 3.60 mmol) in DMF (10 mL) was stirred for 1 h at ambient temperatures. The reaction mixture was concentrated, and the residue was dissolved in EtOAc (60 mL). The solution was washed with 1 N KHSO4 (2×30 mL) and 5% Na2CO3 (30 mL). The organic layer was dried (Na2SO4), concentrated, and purified by flash chromatography (EtOAc/hexane 30/70→50/50) to yield the title compound as a colorless solid (836 mg, 73%). 1H NMR (CDCl3, 600 MHz): δ 11.45 (bs, 1H), 8.76 (s, 1H), 7.15 (d, J=8.4 Hz, 2H), 6.77 (d, J=8.4 Hz, 2H), 6.52 (bs, 1H), 4.81-4.78 (m, 1H), 3.66-3.50 (m, 2H), 1.51 (s, 9H), 1.49 (s, 9H); 13C NMR (CDCl3, 150 MHz): δ 162.86, 157.52, 156.04, 153.19, 133.52, 127.34, 115.65, 83.83, 80.07, 73.95, 49.49, 28.41, 28.26. MS (ESI): 396.4 (M+H, 100), 340.3 (M+H−tBu, 15).

reactant | (+/−)-octopamine hydrochloride | 2.89 mmol, 500 mg | C1=CC(=CC=C1C(CN)O)O.Cl
reactant | N,N′-bis(Boc)-1H-pyrazole-1-carboxamidine | 3.60 mmol, 1.13 g | C(=O)(OC(C)(C)C)NC(=NC(=O)OC(C)(C)C)N1N=CC=C1 | C14H22N4O4
solvent | DMF | 10 mL | CN(C)C=O | C3H7NO
product | 1-(2-Hydroxy-2-(4-hydroxyphenyl)ethyl)-2,3-bis(tert-butoxycarbonyl)guanidine | 836 mg, 73% | OC(CNC(=NC(=O)OC(C)(C)C)NC(=O)OC(C)(C)C)C1=CC=C(C=C1)O | C19H29N3O6
